US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)-4-sulfanylpiperidine dihydrochloride (Exemplification Compound No. 2-1677)
Potassium carbonate (39 mg) was added to a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)piperidine (140 mg) in methanol (5 ml). After stirring for 0.5 hour, 1N hydrochloric acid (3 ml) was added to the mixture. The mixture was filtered using a membrane filter. The filtrate was concentrated under reduced pressure and the residue was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 25/75, v/v) to afford the title compound (120 mg, yield: 80%) as a yellow amorphous solid.

reactant | Potassium carbonate | 39 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)piperidine | 140 mg | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CC1=NC=CC=C1 | C28H29FN4O2S
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
reactant | acetonitrile | 0.024 N | C(C)#N | C2H3N
solvent | methanol | 5 ml | CO | CH4O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)-4-sulfanylpiperidine dihydrochloride | 120 mg, yield: 80% | Cl.Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=NN(C=C1)CC1=NC=CC=C1)=O | InChI=1S/C26H27FN4OS.2ClH/c27-23-7-2-1-6-22(23)25(26(32)18-8-9-18)30-13-11-24(33)19(16-30)15-20-10-14-31(29-20)17-21-5-3-4-12-28-21;;/h1-7,10,12,14-15,18,24-25,33H,8-9,11,13,16-17H2;2*1H/b19-15+;;
